US04169106
N,N'-bis [(2,6-dimethylphenyl)carbamoylmethyl]acetamidine hydrochloride (hydrate)
4.85 Grams (0.039 mole) of ethyl acetimidate hydrochloride and 7.0 g of 2-amino-2',6'-dimethylacetanilide were dissolved in 75 ml of anhydrous ethanol and stirred at room temperature for two days. The solid which formed was collected on a filter, recrystallized from ethanol, and dried overnight under vacuum at 60° C. M.P. 240°-241° C.

reactant | ethyl acetimidate hydrochloride | 0.039 mole | Cl.C(C)(OCC)=N
reactant | 2-amino-2',6'-dimethylacetanilide | 7.0 g | NCC(=O)NC1=C(C=CC=C1C)C | C10H14N2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | N,N'-bis [(2,6-dimethylphenyl)carbamoylmethyl]acetamidine hydrochloride | Cl.CC1=C(C(=CC=C1)C)NC(=O)CNC(C)=NCC(NC1=C(C=CC=C1C)C)=O | InChI=1S/C22H28N4O2.ClH/c1-14-8-6-9-15(2)21(14)25-19(27)12-23-18(5)24-13-20(28)26-22-16(3)10-7-11-17(22)4;/h6-11H,12-13H2,1-5H3,(H,23,24)(H,25,27)(H,26,28);1H
